US04126444
EXAMPLE 6 3-[(2-phenyl-4-imidazolyl)methylene]carbazic acid ethyl ester
2-Penyl-4-imidazolecarboxaldehyde (8.16 g) is dissolved in hot ethanol (200 ml). A hot solution of ethyl carbazate (5.52 g) in ethanol (50 ml) is added. A precipitate forms immediately and the mixture is heated and stirred for about 10 minutes. The mixture is then cooled to 0° C and the precipitate collected by filtration to yield the title product, m.p. 196°-200° C.

reactant | 2-Penyl-4-imidazolecarboxaldehyde | 8.16 g | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | ethyl carbazate | 5.52 g | C(NN)(=O)OCC | C3H8N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[(2-phenyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)C1=CC=CC=C1)=O | C13H14N4O2
